US04134918
A solution of 1 mmole of N-(4-fluoromethyl-4-aminobutyl)phthalimide in 10 ml of chloroform is treated with 1 ml of triethylamine followed by 78 mg (1 mM) of acetyl chloride in 5 ml of chloroform. After 1 hour at 25° C the solution is washed with water, dried and concentrated. The resulting residue is dissolved in 10 ml of ethanol and treated with 60 mg (1.1 mM) of hydrazine hydrate at reflux for 2 hours after which the solvent is evaporated. The residue is treated with 1 N sodium hydroxide solution until the solid dissolves then is extracted with dichloromethane. The organic phase is dried and concentrated to give N-(1-fluoromethyl-4-aminobutyl)-acetamide.

reactant | N-(4-fluoromethyl-4-aminobutyl)phthalimide | 1 mmole | FCC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)N | C13H15FN2O2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1 mM, 78 mg | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(1-fluoromethyl-4-aminobutyl)-acetamide | FCC(CCCN)NC(C)=O | C7H15FN2O
